US07786132B2
(iv) 6-Methoxybenzo[b]thiophene
6-Methoxybenzo[b]thiophen-3(2H)-one (1.4 g, 7.76 mmol) was dissolved in a mixture of methanol (18 mL) and 2.5 M sodium hydroxide (3 mL). The mixture was treated with sodium borohydride (0.589 g, 15 mmol) in 10 mL of methanol and 3 mL of 2.5 M sodium hydroxide. The reflux was heated to reflux for 1 h and then at 60° C. overnight. The reaction was cooled down to room temperature and the methanol removed in vacuo. The remaining aqueous layer was acidified to pH 4 with 1 N hydrochloric acid. The aqueous layer was extracted with ethyl acetate and washed with 1 N HCl. The organic layer was further washed with water, saturated sodium bicarbonate, water and brine. The organic layer was dried with sodium sulfate, concentrated and purified by flash chromatography usng a gradient of 20 to 50% ethyl acetate in hexanes to afford a clear oil (0.843 g).

reactant | 6-Methoxybenzo[b]thiophen-3(2H)-one | 7.76 mmol, 1.4 g | COC=1C=CC2=C(SCC2=O)C1 | C9H8O2S
reactant | sodium borohydride | 15 mmol, 0.589 g | [BH4-].[Na+]
solvent | methanol | 18 mL | CO | CH4O
solvent | sodium hydroxide | 2.5 M, 3 mL | [OH-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
solvent | sodium hydroxide | 2.5 M, 3 mL | [OH-].[Na+]
product | 6-Methoxybenzo[b]thiophene | 0.843 g | COC=1C=CC2=C(SC=C2)C1 | C9H8OS
